US08044173B2
L-Alanine tert-butyl ester
To a mixture of sodium carbonate (875 mg, 8.25 mmol, 5.0 equiv.) in deioned water (10 mL) and diethyl ether (10 mL) was added L-alanine tert-butyl ester hydrochloride (300 mg, 1.65 mmol, 1.0 equiv.). The resulting solution was stirred under an atmosphere of nitrogen for 1 hour. The aqueous phase was extracted with diethyl ether (3×10 mL) and the combined extracts were dried over MgSO4. The solvent was removed in vacuo to settle the title compounds as a colourless oil (200 mg, 84%); v(max) (film) 3377 (N—H), 2978 (C—H), 1729 (C═O) cm″1; δH (250 MHz, CDCl3) 3.42 (1H, q, J 7.02 Hz CH), 1.63 (2H, br, NH2), 1.46 (9H, s, (CH3)3), 1.29 (3H, d, J 7.02 Hz, CH3CH); δc (62.5 MHz, CDCl3) 177.1, 81.2, 51.0, 28.4, 21.2; [α]D20 +3.7 (c 0.97 CHCl3), (lit. [α]D24 +2.3 (c 1.00 CHCl3)).

reactant | sodium carbonate | 8.25 mmol, 875 mg, 5.0 equiv. | C([O-])([O-])=O.[Na+].[Na+]
reactant | L-alanine tert-butyl ester hydrochloride | 1.65 mmol, 300 mg, 1.0 equiv. | Cl.C(C)(C)(C)OC([C@@H](N)C)=O
solvent | water | 10 mL | O | H2O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | L-Alanine tert-butyl ester | C(C)(C)(C)OC([C@@H](N)C)=O | C7H15NO2
